US07875647B2
To the solution of acid (63) (330 mg, 0.74 mmol) in CH2Cl2 (10 mL) was added oxalyl chloride (77 μL, 0.88 mmol) and the catalytic amount of DMF. The reaction mixture was stirred for 1 hr and concentrated in vacuo. The residue (crude acyl chloride) was diluted with CH2Cl2 (10 mL) and pivalohydrazide (128 mg, 1.10 mmol) and triethylamine (0.31 mL, 2.21 mmol) was added. The reaction mixture was stirred for 2 hrs at room temperature. The reaction mixture was concentrated in vacuo and diluted with EtOAc (50 mL). The organic layer was washed with aq. 1N HCl and aq. sat'd NaHCO3 solution, dried over anhydrous MgSO4, filtered, and concentrated in vacuo. Purification by Prep-LC (Gilson) provided 244 mg (61%) of desired diamide as solid.

reactant | oxalyl chloride | 0.88 mmol, 77 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | pivalohydrazide | 1.10 mmol, 128 mg | C(C(C)(C)C)(=O)NN | C5H12N2O
reactant | triethylamine | 2.21 mmol, 0.31 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | diamide | 244 mg, 61% | CN(C)C(=O)N=NC(=O)N(C)C | C6H12N4O2
